US04898949
Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-3-oxo-6,8-nonadienoate
To a chilled suspension (0° C., ice-water bath) of NaH (0.64 g, 16.0 mmoles) (60% in mineral oil) in 20 mL of dry tetrahydrofuran under argon was added ethyl acetoacetate 2.04 mL (16.0 mmoles) in 4 equal portions. The homogeneous clear solution was stirred at 0° C. for 30 minutes followed by the dropwise addition of 6.4 mL of 2.5 Molar n-BuLi (16.0 mmoles) over a period of 15 minutes. The orange dianion solution was stirred at 0° C. for an additional hour. The ice-water bath was replaced by an acetone-dry ice bath at -78° C. and the dianion was transferred via a cannula into a tetrahydrofuran (20 mL) solution containing 5,5-bis(4-fluorophenyl)-4-(1methyl-1H-tetrazol-5-yl)-2,4-pentadienal (2.82 g, 8.01 mmoles). Analytical TLC showed the major desired product at Rf =0.15 (50% EtOAc in hexanes) and a minor product at Rf =0.2. The crude reaction mixture was diluted with 40 mL of 1N HCl and the aqueous layer was extracted with ethyl acetate (50 mL×2). The organic layers were combined, dried over MgSO4 and concentrated under reduced pressure. The desired product was purified by flash silica gel column chromatography eluted with 20% EtOAc in hexanes (v/v) to give 2.26 g (58.5%) of the title compound. MS (CI): m/e=483 for (M+H)+.

reactant | NaH | 16.0 mmoles, 0.64 g | [H-].[Na+]
reactant | ethyl acetoacetate | 16.0 mmoles, 2.04 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-BuLi | 16.0 mmoles, 2.5 Molar, 6.4 mL | [Li]CCCC
reactant | 5,5-bis(4-fluorophenyl)-4-(1methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 8.01 mmoles, 2.82 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C19H14F2N4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1-methyl-1H-tetrazol-5-yl)-3-oxo-6,8-nonadienoate | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC)=O)O)C1=NN=NN1C)C1=CC=C(C=C1)F | C25H24F2N4O4
